US07153855B2
A solution of 1-[7-(cyclopropylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone (1.22 g, 3.8 mmol) in N,N-dimethylformamide di-tert-butyl acetal (8 mL, 33 mmol) was heated under reflux for 4 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organics were washed with water and brine, then dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (1:1 hexanes-ethyl acetate to ethyl acetate) provided (2E)-1-[7-(cyclopropylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (1.19 g, 83%) as a gold foam. 1H NMR (CDCl3): δ 7.73 (d, 1 H), 7.62 (d, 2 H), 7.34 (t, 1 H), 6.97 (d, 2 H), 6.37 (d, 1 H), 6.29 (s, 1 H), 5.13 (d, 1 H), 3.85 (s, 3 H), 2.95 (broad, 3 H), 2.65 (m, 1 H), 2.50 (broad, 3 H), 0.86 (m, 2 H), 0.72 (m, 2 H); MS m/z 377 (M+1).

reactant | 1-[7-(cyclopropylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]ethanone | 3.8 mmol, 1.22 g | C1(CC1)NC1=CC=CC=2N1N=C(C2C(C)=O)C2=CC=C(C=C2)OC | C19H19N3O2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 33 mmol, 8 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | water | O | H2O
product | (2E)-1-[7-(cyclopropylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 1.19 g, 83% | C1(CC1)NC1=CC=CC=2N1N=C(C2C(\C=C\N(C)C)=O)C2=CC=C(C=C2)OC | C22H24N4O2
